US08133886B2
Step 3.4: 6-Chlorocarbonylmethyl-naphthalene-1-carboxylic acid methyl ester
140 μl (1.8 mMol) DMF are added to an ice-cooled solution of 3.6 ml (43 mMol) oxalylchloride in 150 CH2Cl2. Then a suspension of 8.8 g (36 mMol) 6-carboxymethyl-naphthalene-1-carboxylic acid methyl ester in 400 ml CH2Cl2 is added during 1 h. After 1.5 h stirring in the ice-bath, the reaction mixture is concentrated in vacuo, yielding the title compound.

reactant | DMF | 1.8 mMol, 140 μl | CN(C)C=O | C3H7NO
reactant | oxalylchloride | 43 mMol, 3.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-carboxymethyl-naphthalene-1-carboxylic acid methyl ester | 36 mMol, 8.8 g | COC(=O)C1=CC=CC2=CC(=CC=C12)CC(=O)O | C14H12O4
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | 6-Chlorocarbonylmethyl-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)CC(=O)Cl | C14H11ClO3
